US04124583
3.56 g (0.01mole) of 5-(N-benzoyl thiocarbamoyl)-5H-dibenz(b,f)-azepine is suspended into 37.5 ml of cold water. 3.6 ml of 30% aqueous potassium hydroxide is added and the suspension is heated to boilling. A yellow solution is produced, out of which the reaction product (5-thiocatbamoyliminostilbene) starts to separate after 15 minutes. After boiling for 2.5 hours the suspension is cooled to 25° C. and the desired product is separated by filtration, washed profusely with cold water (25° C.), until the pH of rinsing water is adjusted to about 5. After drying at 50° C., 2.38 g of 5-thiocarbamoyl-5H-dibenz(b,f)-azepine is obtained (m.p. 192°-194° C.). After recrystallization from benzene a product with a 197°-197.5° C. melting point is obtained.

reactant | 5-(N-benzoyl thiocarbamoyl)-5H-dibenz(b,f)-azepine | 0.01mole, 3.56 g | C(C1=CC=CC=C1)(=O)NC(=S)N1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C22H16N2OS
reactant | potassium hydroxide | 3.6 ml | [OH-].[K+]
solvent | water | 37.5 ml | O | H2O
product | 5-thiocarbamoyl-5H-dibenz(b,f)-azepine | 2.38 g | C(N)(=S)N1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C15H12N2S
